US04313002
In this example the sodium salt of p-nitrosodiphenylamine was hydrogenated in a continuous manner over a fixed bed of catalyst. Diphenylamine (338 g, 2 mols) was converted to the sodium salt of p-nitrosodiphenylamine as in Example 2. A solution of approximately equal weights of toluene and 1-butanol was added to dilute the solution of the sodium salt to a concentration of about 13.5 wt. %, and enough water was added to dissolve all the inorganic salts present in the aqueous phase. The two phases were separated and simultaneously pumped into a tube reactor over a 0.4 wt. % palladium on charcoal catalyst at 125° C., 1000 psig hydrogen pressure at 1 liquid hourly space velocity based on total liquid. Thin layer chromatography indicated 100% conversion of p-nitrosodiphenylamine. Distillation of the residue after separation of the aqueous phase and removal of the organic solvents gave 95% p-aminodiphenylamine exclusive of losses from column hold-up.

reactant | sodium | [Na] | Na
reactant | p-nitrosodiphenylamine | C1=CC=C(C=C1)NC2=CC=C(C=C2)N=O | C12H10N2O
reactant | Diphenylamine | 2 mols, 338 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | 1-butanol | C(CCC)O | C4H10O
product | p-aminodiphenylamine | 95% | C1=CC=C(C=C1)NC2=CC=C(C=C2)N | C12H12N2
